US04419262
2.56 g of 3-ethynyl-6-(trans-4-pentylcyclohexyl)pyridazine were dissolved in 25 ml of tetrahydrofuran under nitrogen. The solution was cooled to -70° C. and then 7.5 ml of a 1.6 M solution of butyl lithium in hexane were added dropwise within 20 minutes. The mixture was stirred at -70° C. for a further 1 hour and then 0.74 ml of methyl iodide was added dropwise within 5 minutes. The mixture was stirred overnight and warmed slowly to room temperature. After 15.5 hours, the dark mixture was poured into 100 ml of water and made neutral with solid ammonium chloride. The solution obtained was extracted three times with 100 ml of ether each time. The ether phases were washed twice with 100 ml of water each time, subsequently combined, dried with sodium sulphate, filtered and concentrated on a rotary evaporator. Recrystallization of the resulting dark crystals in ethyl acetate/hexane (1:9) gave 1.87 g (70%) of 3-(1 -propynyl)-6-(trans-4-pentylcyclohexyl)pyridazine as brown crystals of melting point 103°-104° C. and clearing point (S-I) 99.3° C.

reactant | 3-ethynyl-6-(trans-4-pentylcyclohexyl)pyridazine | 2.56 g | C(#C)C=1N=NC(=CC1)[C@@H]1CC[C@H](CC1)CCCCC | C17H24N2
reactant | butyl lithium | C(CCC)[Li]
reactant | methyl iodide | 0.74 ml | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | water | 100 ml | O | H2O
product | 3-(1 -propynyl)-6-(trans-4-pentylcyclohexyl)pyridazine | 1.87 g, 70% | C(#CC)C=1N=NC(=CC1)[C@@H]1CC[C@H](CC1)CCCCC | C18H26N2
